US06888032B2
Preparation of 5-Iodo-m-xylene Using Various Solvents
A Sclenk tube was charged with CuI (9.6 mg, 0.0504 mmol, 5.0 mol %), sodium iodide (fine powder, dried, 300 mg, 2.00 mmol), evacuated and backfilled with argon. trans-N,N′-Dimethyl-1,2-cyclohexanediamine (16 μL, 0.10 mmol, 10 mol %), 5-bromo-m-xylene (136 μL, 1.00 mmol), and solvent (1.0 μL) were added under argon. The Schlenk tube was sealed with a Teflon valve and the reaction mixture was stirred at 110° C. for 23 h. The resulting suspension was allowed to reach room temperature. Ethyl acetate (2 mL) and dodecane (internal GC standard, 230 μL) were added to the reaction mixture. A 50 μL sample of the supernatant solution was diluted with ethyl acetate (1 mL) and analyzed by GC. The results are tabulated below.

reactant | sodium iodide | 2.00 mmol, 300 mg | [I-].[Na+]
reactant | trans-N,N′-Dimethyl-1,2-cyclohexanediamine | 0.10 mmol, 16 μL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | 5-bromo-m-xylene | 1.00 mmol, 136 μL | BrC=1C=C(C=C(C1)C)C | C8H9Br
reactant | dodecane | 230 μL | CCCCCCCCCCCC | C12H26
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
catalyst | CuI | 0.0504 mmol, 9.6 mg | [Cu]I
solvent | Ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | 5-Iodo-m-xylene | IC=1C=C(C=C(C1)C)C | C8H9I
